US06083961
To a suspension of 7-(tetrahydropyran-2-yloxy)-2(3H)-benzoxazolone (300 mg) and potassium carbonate (529 mg) in dimethylformamide (3 ml) was added methyl iodide at ambient temperature, and the mixture was stirred for 3 hours under nitrogen atmosphere. Water was added to the reaction mixture, and the resulting precipitates were collected by filtration to give 3-methyl-7-(tetrahydropyran-2-yloxy)-2(3H)-benzoxazolone (299 mg).

reactant | 7-(tetrahydropyran-2-yloxy)-2(3H)-benzoxazolone | 300 mg | O1C(CCCC1)OC1=CC=CC=2NC(OC21)=O | C12H13NO4
reactant | potassium carbonate | 529 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | CI | CH3I
reactant | Water | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-methyl-7-(tetrahydropyran-2-yloxy)-2(3H)-benzoxazolone | 299 mg | CN1C(OC2=C1C=CC=C2OC2OCCCC2)=O | C13H15NO4
